US06069176
N-Benzyl-N-[3-(4-methoxyphenyl)cyclopentylmethyl]amine (free compound, 5.60 g) was dissolved in ethyl acetate (100 ml), 4 N HCl-ethyl acetate solution (10 ml) was added, and the mixture was stirred at room temperature for 2 hours. The deposited crystals were filtered and air-dried to give 6.30 g of N-benzyl-N-[3-(4-methoxyphenyl) cyclopentylmethyl]amine hydrochloride (quantitative yield).

reactant | N-Benzyl-N-[3-(4-methoxyphenyl)cyclopentylmethyl]amine | 5.60 g | C(C1=CC=CC=C1)NCC1CC(CC1)C1=CC=C(C=C1)OC | C20H25NO
reactant | HCl ethyl acetate | 4 N, 10 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyl-N-[3-(4-methoxyphenyl) cyclopentylmethyl]amine hydrochloride | 6.30 g, quantitative yield | Cl.C(C1=CC=CC=C1)NCC1CC(CC1)C1=CC=C(C=C1)OC | InChI=1S/C20H25NO.ClH/c1-22-20-11-9-18(10-12-20)19-8-7-17(13-19)15-21-14-16-5-3-2-4-6-16;/h2-6,9-12,17,19,21H,7-8,13-15H2,1H3;1H
